US06503949B1
Ethyl 3-({[4-(bromomethyl)phenyl]sulfonyl}amino)propionate
To a solution of the 4-bromomethylphenylsulfonylchloride (10 g, 37 mmol) in CH2Cl2 (200 mL) at 0° C. was added diisopropylethylamine (16 mL, 93 mmol) followed by ethyl-3-aminopropionate hydrochloride (5.1 g, 37 mmol)). The reaction was stirred for 10 minutes at 0° C. and the solvent was evaporated at room temperature under reduced pressure. The residue was dissolved in ethyl acetate and washed with 1N HCl (3×), H2O, aqueous NaHCO3 (3×), brine (3×) and dried over MgSO4. The solvent was concentrated to give a syrup. Addition of ethyl ether induced crystallization of the product as a white solid (10 g, 30 mmol, 81%).

reactant | 4-bromomethylphenylsulfonylchloride | 37 mmol, 10 g | BrCC1=CC=C(C=C1)S(=O)(=O)Cl | C7H6BrClO2S
reactant | diisopropylethylamine | 93 mmol, 16 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl-3-aminopropionate hydrochloride | 37 mmol, 5.1 g | Cl.C(C)OC(CCN)=O
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-({[4-(bromomethyl)phenyl]sulfonyl}amino)propionate | BrCC1=CC=C(C=C1)S(=O)(=O)NCCC(=O)OCC | C12H16BrNO4S
